US06350762B1
1) Synthesis of 2-cyanoethyl 4-(3-chlorophenyl)-2,6-dimethyl-5-{[3-(2-methoxyphenyl)-2-propene-1-yl]carbamoyl}-1,4-dihydropyridine-3-carboxylate
150 mg (0.416 mmol) of mono(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate and 81.4 mg (0.499 mmol) of 3-(2-methoxyphenyl)-allylamine were dissolved in 10 ml of dichloromethane. 120 mg (0.624 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 63.7 mg (0.416 mmol) of 1-hydroxybenzotriazole were added to the obtained solution under cooling with ice, and they were stirred at room temperature for 2 hours. Dichloromethane was evaporated under reduced pressure. Ethyl acetate was added to the residue, and the product was washed with 1 N hydrochloric acid and then with a saturated aqueous sodium hydrogencarbonate solution. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (dichloromethane/methanol=100/1) to obtain the title compound.

reactant | mono(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 0.416 mmol, 150 mg | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)[O-])C)C)C(=O)OCCC#N
reactant | 3-(2-methoxyphenyl)-allylamine | 0.499 mmol, 81.4 mg | COC1=C(C=CC=C1)C=CCN | C10H13NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.624 mmol, 120 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.416 mmol, 63.7 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-cyanoethyl 4-(3-chlorophenyl)-2,6-dimethyl-5-{[3-(2-methoxyphenyl)-2-propene-1-yl]carbamoyl}-1,4-dihydropyridine-3-carboxylate | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(NCC=CC1=C(C=CC=C1)OC)=O)C)C)C(=O)OCCC#N | C28H28ClN3O4
